US06380288B1
Synthesis of N′-(2-furylmethylene)salicylohydrazide
A four neck flask (2 liters) equipped with a thermometer, a reflux condenser and a stirrer was charged with 76.1 g (0.5 mol) of salicylohydrazide and 1 liter of methanol, and 57.6 g (0.6 mol) of furfural was dropwise added thereto in 30 minutes while stirring at room temperature. After heating under reflux for 2 hours, the reaction liquid was cooled down to 20° C. or lower, and crystal was filtered off. The crystal was washed with a small amount of methanol and then dried under reduced pressure, whereby the intended compound (slightly yellow crystal) was obtained. The amount yielded in this reaction was 108.1 g (0.47 mol), and the yield was 93%.

reactant | salicylohydrazide | 0.5 mol, 76.1 g | C(C=1C(O)=CC=CC1)(=O)NN | C7H8N2O2
reactant | furfural | 0.6 mol, 57.6 g | C(C1=CC=CO1)=O | C5H4O2
solvent | methanol | 1 liter | CO | CH4O
product | N′-(2-furylmethylene)salicylohydrazide | yield was 93% | O1C(=CC=C1)C=NNC(C=1C(O)=CC=CC1)=O | C12H10N2O3
